US05565479
0.34 g of 2-bromo-1-indanone and 0.26 g of 4-imidazolyl thioacetamide hydrochloride were dissolved in 7 ml of 2-propanol with heating, and the solution was heated for 30 minutes under reflux. After cooling the reaction solution, the precipitated crystals were collected by filtration and washed with ethyl acetate. The collected crystals were partitioned between chloroform and a saturated aqueous sodium bicarbonate solution, and the aqueous layer was extracted with chloroform several times. The combined chloroform layers were washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. By evaporation of the solvent, 0.12 g (32%) of 2-(4-imidazolylmethyl)-8H-indeno[1,2-d]thiazole was obtained. This free base was dissolved in methanol and mixed with 0.055 g of fumaric acid to effect crystallization. The resulting crude crystals were recrystallized from methanol-diethyl ether to obtain 0.10 g of fumarate.

reactant | 2-bromo-1-indanone | 0.34 g | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | 4-imidazolyl thioacetamide hydrochloride | 0.26 g | Cl.N1C=NC(=C1)CC(=S)N
solvent | 2-propanol | 7 ml | CC(C)O | C3H8O
product | 2-(4-imidazolylmethyl)-8H-indeno[1,2-d]thiazole | 0.12 g, 32% | N1C=NC(=C1)CC=1SC2=C(N1)C=1C=CC=CC1C2 | C14H11N3S
